US04902599
In 15 g of trimethylolpropane triacrylate were dissolved 0.06 g of a Polymer P-1 of the following formula and 0.9 g of Pargascript Red 1-6-B, and to the solution were added 1.2 g of the silver chlorobromide emulsion as prepared in Example 1, 4.8 g of the silver benzotriazole emulsion as prepared in Example 1, 0.5 ml of a 10 wt % aqueous solution of Emulex NP-8, 1.2 ml of a 5% methanolic solution of Hydrazine Derivative Hd-19, and 0.2 ml of a 2.5 wt % methanolic solution of Developing Agent D-16. The mixture was emulsified in a homogenizer at 18,000 rpm for 3 minutes. To the emulsion was then added 0.15 g of Millionate MR-100 (produced by Nippon Polyurethane Industry Co., Ltd.), followed by stirring at 3,000 rpm for 1 minute. Five grams of Takenate D-110N (produced by Takeda Chemical Industries, Ltd.) was further added thereto, followed by stirring at 3,000 rpm for 1 minute.

reactant | Hydrazine | NN | H4N2
reactant | MR-100 | CC(=O)CC(C1=CC=CC=C1)C2=C(C3=CC=CC=C3OC2=O)O.C1=CC=C2C(=C1)N=CC(=N2)NS(=O)(=O)C3=CC=C(C=C3)N
reactant | trimethylolpropane triacrylate | 15 g | C(C=C)(=O)O.C(C=C)(=O)O.C(C=C)(=O)O.C(O)C(CC)(CO)CO
catalyst | silver chlorobromide | 1.2 g | ClBr.[Ag]
catalyst | silver benzotriazole | 4.8 g | N1N=NC2=C1C=CC=C2.[Ag]
product | Takenate | Five grams | C1=CC(=CC(=C1)CN=C=O)CN=C=O | C10H8N2O2
